US07618985B2
A suspension of 1-amino-7-methylisoquinolin4-ol (430 mg, 2.4 mmol), 4-methanesulfonyloxypiperidine-1-carboxylic acid tert-butyl ester (1.0 g) and K2CO3 (510 mg, 3.7 mmol) in anhydrous N, N-dimethylformamide (8 ml) were microwaved at 100° C. for 10 minutes. A further equivalent of 4-methanesulfonyloxypiperidine-1-carboxylic acid tert-butyl ester in N, N-dimethylformamide (4 ml) was added and the mixture microwaved at 100° C. for a further 10 minutes. The mixture was diluted with water, acidified with acetic acid and further diluted with methanol. The mixture was loaded onto a pre-acidified SCX column, washed with methanol and then eluted with 2M ammonia in methanol. The crude product was isolated and further purified using flash chromatography on silica (eluent: 9:1:0.1 dichloromethane : methanol :ammonium hydroxide) to afford 4-(1-amino-7-methylisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester (327 mg). A mixture of the 4-(1-amino-7-methylisoquinolin-6-yloxy)-piperidine-1-carboxylic acid tert-butyl ester in dichloromethane (5 ml) and trifluoroacetic acid (2 ml) was stirred at ambient temperature overnight. The mixture was concentrated in vacuo to give a residue. The residue was loaded onto a pre-acidified SCX column, washed with methanol and then eluted with 2M ammonia in methanol to give 7-methyl-6-(piperidin-4-yloxy)isoquinolin-1-ylamine (270 mg), El-MS: m/z=258.4 [M+H]+.

reactant | 4-(1-amino-7-methylisoquinolin-6-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=C2C=CN=C(C2=CC1C)N | C20H27N3O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-methyl-6-(piperidin-4-yloxy)isoquinolin-1-ylamine | 270 mg | CC1=C(C=C2C=CN=C(C2=C1)N)OC1CCNCC1 | C15H19N3O
